US09212189B2
Morpholinourea-rhodamine 110 (29.8 mg, 0.0672 mmol, 1.0 equiv) was dissolved in 7.2 mL 2:1 CH3CN:CH2Cl2 and cooled to 0° C. Trifluoroacetic acid (7.5 μL, 0.098 mmol, 1.5 equiv) was added to give a red solution, followed directly by the addition of iso-amyl nitrite (10.7 μL, 0.0796 mmol, 1.2 equiv) to give an orange solution. After stirring for 2 h at ambient temperature, sodium azide (12.4 mg, 0.191 mmol, 2.8 equiv) was added and the solution was allowed to stir for an additional 1 h. The reaction mixture was then poured into 15 mL saturated aq NaHCO3. The layers were separated and the aqueous layer was washed with an additional 2×10 mL EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated. The crude product was purified by silica column chromatography (4:1 Hex:EtOAc→1:1 Hex:EtOAc) to yield SF2 (25.5 mg, 81%). 1H NMR (400 MHz, CDCl3) δ 8.01 (d, 1H, J=7.2 Hz), 7.68 (t, 1H, J=7.0 Hz), 7.63 (t, 1H, J=7.4 Hz), 7.55 (d, 1H, J=2.1 Hz), 7.13 (d, 1H, J=7.4 Hz), 6.90 (m, 3H), 6.76 (d, 1H, 8.6 Hz), 6.70 (dd, 1H, J=8.5, 2.1 Hz), 6.62 (d, 1H, 8.6 Hz); 13C NMR (100 MHz, CDCl3) δ 169.64, 154.53, 153.23, 152.26, 151.45, 142.64, 141.55, 135.31, 131.21, 129.94, 129.46, 128.21, 126.18, 125.13, 123.97, 115.71, 115.43, 114.83, 112.71, 107.39, 107.30, 66.46, 44.25, 29.67; HRMS calcd for C25H20N5O5 (M+H+) 470.1459. found 470.1460.

reactant | Morpholinourea rhodamine 110 | 0.0672 mmol, 29.8 mg, 1.0 equiv | O1CCN(CC1)NC(=O)N.C1=CC=C(C(=C1)C2=C3C=CC(=[NH2+])C=C3OC4=C2C=CC(=C4)N)C(=O)O.[Cl-]
reactant | Trifluoroacetic acid | 0.098 mmol, 7.5 μL, 1.5 equiv | FC(C(=O)O)(F)F | C2HF3O2
reactant | iso-amyl nitrite | 0.0796 mmol, 10.7 μL, 1.2 equiv | N(=O)OCCC(C)C | C5H11NO2
reactant | sodium azide | 0.191 mmol, 12.4 mg, 2.8 equiv | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | CH3CN | CC#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Sulfidefluor-2 | 25.5 mg, 81% | C1COCCN1C(=O)NC2=CC3=C(C=C2)C4(C5=C(O3)C=C(C=C5)N=[N+]=[N-])C6=CC=CC=C6C(=O)O4 | C25H19N5O5
